US08211901B2
Preparation of N-(4-((2-aminophenyl)carbamoyl)benzyl)-6-(7-chloroquinolin-4-yloxy)-1-naphthamide
The title compound (42.4 mg, 74% yield) was prepared as a brown solid from 6-(7-chloroquinolin-4-yloxy)-1-naphthoic acid (35.0 mg, 0.1 mmol) and 4-(aminomethyl)-N-(2-aminophenyl)benzamide (28.9 mg, 0.12 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 4.64 (d, J=5.8 Hz, 2H, —CH2), 4.87 (s, 2H, benzene-NH2), 6.60 (t, J=7.0 Hz, 1H, Ar—H), 6.75-6.79 (m, 2H, Ar—H), 6.97 (t, J=7.5 Hz, 1H, Ar—H), 7.18 (d, J=7.7 Hz, 1H, Ar—H), 7.53-7.59 (m, 3H, Ar—H), 7.66 (t, J=8.0 Hz, 1H, Ar—H), 7.70-7.74 (m, 2H, Ar—H), 7.92 (d, J=2.0 Hz, 1H, Ar—H), 7.99 (d, J=7.9 Hz, 2H, Ar—H), 8.06 (d, J=8.2 Hz, 1H, Ar—H), 8.13 (s, 1H, Ar—H), 8.39-8.42 (m, 2H, Ar—H), 8.75 (d, J=5.1 Hz, 1H, Ar—H), 9.22 (t, J=5.6 Hz, 1H, —CONH), 9.62 (s, 1H, benzene-NH). LC-MS (m/z) 573 (M+1).

reactant | 6-(7-chloroquinolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 35.0 mg | ClC1=CC=C2C(=CC=NC2=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C20H12ClNO3
reactant | 4-(aminomethyl)-N-(2-aminophenyl)benzamide | 0.12 mmol, 28.9 mg | NCC1=CC=C(C(=O)NC2=C(C=CC=C2)N)C=C1 | C14H15N3O
product | N-(4-((2-aminophenyl)carbamoyl)benzyl)-6-(7-chloroquinolin-4-yloxy)-1-naphthamide | 42.4 mg, 74% yield | NC1=C(C=CC=C1)NC(=O)C1=CC=C(CNC(=O)C2=CC=CC3=CC(=CC=C23)OC2=CC=NC3=CC(=CC=C23)Cl)C=C1 | C34H25ClN4O3
